US05834506
3-(2-tert-Butyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-[4-(2-hydroxy-ethoxy)-phenyl]-6-phenethyl-5,6-dihydro-pyran-2-one
Deprotection of 1.75 g (2.7 mmol) of 6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenyl }-3-(2-tert-butyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-phenethyl-5,6-dihydro-pyran-2-one (prepared in the paragraph above) was accomplished as described in General Method 8 using 5.4 mL (5.4 mmol) of 1M tetrabutylammonium fluoride and 10 mL of THF. Purification by silica gel chromatography, eluting with MeOH:(50% Hexane-50% CH2Cl2) (1:99 to 5:95) gave the title compound, m.p. 154°-156° C.

reactant | 6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenyl }-3-(2-tert-butyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-phenethyl-5,6-dihydro-pyran-2-one | 2.7 mmol, 1.75 g | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)C1(CC(=C(C(O1)=O)SC1=C(C=CC(=C1)C)C(C)(C)C)O)CCC1=CC=CC=C1)(C)C | C38H50O5SSi
reactant | tetrabutylammonium fluoride | 5.4 mmol, 1M, 5.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(2-tert-Butyl-5-methyl-phenylsulfanyl)-4-hydroxy-6-[4-(2-hydroxy-ethoxy)-phenyl]-6-phenethyl-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C=C1)C)SC=1C(OC(CC1O)(CCC1=CC=CC=C1)C1=CC=C(C=C1)OCCO)=O | C32H36O5S
